US06660724B1
Diethyl α-(3,5-Dimethoxy-4-hydroxyphenyl)-N-methyl-N-(3-picolyl)aminomethylphosphonate
A mixture of 3.0 g (16.5 mmol) of syringaldehyde, 2.03 g (16.6 mmol) of N-methyl-3-picolylamine and 2.3g (16.6 mmol) diethyl phosphite dissolved in 15 ml toluene and a catalytic amount of p-toluenesulfonic acid (ca. 5 mg) contained in a flask connected to a Dean Stark apparatus was refluxed for 2 h. The solution was evaporated and the residue was purified by column chromatography (95/5 CHCl3/MeOH) to yield 3.2 g (46%) of a yellow oil.

reactant | syringaldehyde | 16.5 mmol, 3.0 g | C(C1=CC(OC)=C(O)C(OC)=C1)=O | C9H10O4
reactant | N-methyl-3-picolylamine | 16.6 mmol, 2.03 g | CNCC=1C=NC=CC1 | C7H10N2
reactant | diethyl phosphite | 16.6 mmol, 2.3g | P(OCC)(OCC)[O-]
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | ca. 5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Diethyl α-(3,5-Dimethoxy-4-hydroxyphenyl)-N-methyl-N-(3-picolyl)aminomethylphosphonate | 3.2 g, 46% | COC=1C=C(C=C(C1O)OC)C1=NC=CC=C1CN(C)CP(OCC)(OCC)=O | C20H29N2O6P
